US07893059B2
5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine was reacted with 2-morpholinoethanamine via General Procedure C to give crude 5-chloro-7-morpholino-N-(2-morpholinoethyl)thiazolo[4,5-d]pyrimidin-2-amine, which was then reacted with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure C again to give 136 after purification by reverse HPLC. MS (Q1) 444 (M+)

reactant | 5-Chloro-2-(methylsulfonyl)-7-morpholinothiazolo[4,5-d]pyrimidine | ClC=1N=C(C2=C(N1)N=C(S2)S(=O)(=O)C)N2CCOCC2 | C10H11ClN4O3S2
reactant | 2-morpholinoethanamine | O1CCN(CC1)CCN | C6H14N2O
product | 5-chloro-7-morpholino-N-(2-morpholinoethyl)thiazolo[4,5-d]pyrimidin-2-amine | ClC=1N=C(C2=C(N1)N=C(S2)NCCN2CCOCC2)N2CCOCC2 | C15H21ClN6O2S
